US07560463B2
Part E: 6-[4-(2-Benzylaminoethyl)phenoxy]pyridine-2-carboxamide
Dissolve 6-[4-(2-aminoethyl)phenoxy]pyridine-2-carboxamide (0.0452 g, 0.176 mmol) in methanol (2.9 mL). Add benzaldehyde (0.018 mL) and 3 Å molecular sieves. Stir at room temperature overnight. Add NaBH4 (0.0066 g, 0.176 mmol). Stir for additional 6.5 hours before filtering and concentrating. Purify by reverse phase chromatography, eluting with 0-99% 0.1% TFA/acetonitrile and 0.1% TFA/water to give the title compound (9.4 mg, 15.4%): MS ES− 347.9 (M+H)+, HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 5-95% over 19 min], tR=7.6 min, 100% purity.

reactant | 6-[4-(2-aminoethyl)phenoxy]pyridine-2-carboxamide | 0.176 mmol, 0.0452 g | NCCC1=CC=C(OC2=CC=CC(=N2)C(=O)N)C=C1 | C14H15N3O2
reactant | benzaldehyde | 0.018 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH4 | 0.176 mmol, 0.0066 g | [BH4-].[Na+]
solvent | methanol | 2.9 mL | CO | CH4O
product | 6-[4-(2-Benzylaminoethyl)phenoxy]pyridine-2-carboxamide | 9.4 mg, 15.4% | C(C1=CC=CC=C1)NCCC1=CC=C(OC2=CC=CC(=N2)C(=O)N)C=C1 | C21H21N3O2
